US03952104
A solution of 5.66 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid and 2.16 parts of tris-(hydroxymethyl)methylamine in 50 parts of ethanol was refluxed for 2 hours. The solution was filtered and evaporated to an oil which was triturated with ether to give 7.1 parts of 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid tris-(hydroxymethyl)methylamine salt hemihydrate as a pale yellow solid.

reactant | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)O)=O)OCCC(C)C | C18H20O5
reactant | tris-(hydroxymethyl)methylamine | OCC(N)(CO)CO | C4H11NO3
solvent | ethanol | C(C)O | C2H6O
product | 8-allyl-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-carboxylic acid tris-(hydroxymethyl)methylamine salt hemihydrate | O.OCC(N)(CO)CO.C(C=C)C1=CC=C(C=2C(C=C(OC21)C(=O)O)=O)OCCC(C)C.C(C=C)C2=CC=C(C=1C(C=C(OC12)C(=O)O)=O)OCCC(C)C.OCC(CO)(CO)N | InChI=1S/2C18H20O5.2C4H11NO3.H2O/c2*1-4-5-12-6-7-14(22-9-8-11(2)3)16-13(19)10-15(18(20)21)23-17(12)16;2*5-4(1-6,2-7)3-8;/h2*4,6-7,10-11H,1,5,8-9H2,2-3H3,(H,20,21);2*6-8H,1-3,5H2;1H2
